US04877795
In a solution of 355 mg of 2-pyridylacetic acid hydrochloride in 5 ml of 2-propanol, hydrogen chloride was saturated at 0° C., and the solution was stirred for 10 hours at room temperature. Sodium bicarbonate was added to the reaction mixture to make alkaline, and the solution was extracted with 50 ml of diethyl ether. The ethereal layer was washed successively with water and a suturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give 305 mg of isopropyl 2-pyridylacetate as an oil.

reactant | 2-pyridylacetic acid hydrochloride | 355 mg | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | hydrogen chloride | Cl | ClH
product | isopropyl 2-pyridylacetate | 305 mg | N1=C(C=CC=C1)CC(=O)OC(C)C | C10H13NO2
